US08536168B2
1,4-dichloro-6-isopropyl-6H-pyrrolo[3,4-d]pyridazine (Compound 43)
To a suspension of 4,5-bis(bromomethyl)-3,6-dichloropyridazine (700 mg, 2.09 mmol) in 66 mL anhydrous THF was added with sodium carbonate (443 mg, 4.18 mmol) and tetrabutylammonium iodide (77.2 mg, 0.21 mmol). The reaction mixture was added with isopropyl amine (0.18 mL, 2.09 mmol) in 10 mL THF dropwisely for 2 h. The reaction mixture was heated at 70° C. for 3 h. The reaction mixture was concentrated, dissolved in DCM and washed with water and brine. The organics solution was dried over Na2SO4 and concentrated to afford a crude oil. The mixture was purified by flash chromatography on silica gel, eluting with 10-80% EtOAc:heptane to afford a off-white solid (280 mg, yield: 47%).

reactant | 4,5-bis(bromomethyl)-3,6-dichloropyridazine | 2.09 mmol, 700 mg | BrCC1=C(N=NC(=C1CBr)Cl)Cl | C6H4Br2Cl2N2
reactant | sodium carbonate | 4.18 mmol, 443 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | isopropyl amine | 2.09 mmol, 0.18 mL | C(C)(C)N | C3H9N
reactant | heptane | CCCCCCC | C7H16
solvent | THF | 66 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.21 mmol, 77.2 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1,4-dichloro-6-isopropyl-6H-pyrrolo[3,4-d]pyridazine | 280 mg, yield: 47% | ClC1=NN=C(C=2C1=CN(C2)C(C)C)Cl | C9H9Cl2N3
